US04006108
A solution of 100 mg of sodium in 85 ml of n-butanol is placed in a flask filled with nitrogen and cooled to ca 5° C. At this temperature, 20 g (0.09 mol) of 3-ethyl-4,7-dimethyl-2,6-octadienoic acid ethyl ester are added. The mixture is then warmed to 60° C for 5 hours and to 100° C for 3 hours. For the working-up, the mixture is acidified with a few drops of glacial acetic acid and then the major part of the n-butanol is distilled off on a rotary evaporator. The residue is taken up in n-hexane, washed twice with sodium bicarbonate solution and three times with water, dried over sodium sulphate and evaporated. The crude product (19.3 g) is fractionally distilled. There are obtained 16.4 g (73%) of pure 3-ethyl-4,7-dimethyl-2,6-octadienoic acid n-butyl ester of boiling point 90°-92° C/0.04 mm Hg; nD20 = 1.4677.

reactant | sodium | 100 mg | [Na] | Na
reactant | 3-ethyl-4,7-dimethyl-2,6-octadienoic acid ethyl ester | 0.09 mol, 20 g | C(C)OC(C=C(C(CC=C(C)C)C)CC)=O | C14H24O2
reactant | n-butanol | 85 ml | C(CCC)O | C4H10O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 3-ethyl-4,7-dimethyl-2,6-octadienoic acid n-butyl ester | 16.4 g, 73% | C(CCC)OC(C=C(C(CC=C(C)C)C)CC)=O | C16H28O2
